US05624937
4--Nitrophenyl-2-quinolylsulfone (9.0 mmoles, 2.7 g) was dissolved in 200 ml ethanol and 75 ml DMF and was then hydrogenated over 2.2 g 5% Pd/C at room temperature for 3 hr. The reaction mixture was then filtered through celite and condensed to afford 2-(4-aminophenylsulfinyl)quinoline.

reactant | 4--Nitrophenyl-2-quinolylsulfone | 9.0 mmoles, 2.7 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=NC2=CC=CC=C2C1)S(=O)(=O)C1=NC2=CC=CC=C2C=C1C1=CC=C(C=C1)[N+](=O)[O-] | C30H18N4O6S
reactant | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 2.2 g | [Pd] | Pd
product | 2-(4-aminophenylsulfinyl)quinoline | NC1=CC=C(C=C1)S(=O)C1=NC2=CC=CC=C2C=C1 | C15H12N2OS
